US07256198B2
8-({(2S)-2-[(Cyclohexylamino)methyl]pyrrolidin-1-yl}sulfonyl)-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To a solution of {(2S)-1-[(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate (0.100 g, 0.170 mmol) in THF (2 mL) was added cyclohexylamine (0.034 g, 0.340 mmol) and the reaction was stirred at 70° C. overnight. Additional cyclohexylamine (0.088 g, 0.850 mmol) was added to the reaction and stirred at 100° C. for 2 days. The reaction was quenched with water and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (35/65). The resulting product was dissolved in CH2Cl2 (2 mL) and methanesulfonic acid (2 mL) was added and the solution was stirred at rt overnight. The reaction mixture was poured onto ice, basified to pH 11 with ammonium hydroxide and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (35/65) to give the title compound as a yellow foam (0.036 g, 46%). NMR (400 Mz, DMSO-d6): consistent. MS: (ESI+) m/z 459.3 [M+H].

reactant | {(2S)-1-[(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate | 0.170 mmol, 0.100 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C28H35N3O7S2
reactant | cyclohexylamine | 0.340 mmol, 0.034 g | C1(CCCCC1)N | C6H13N
reactant | cyclohexylamine | 0.850 mmol, 0.088 g | C1(CCCCC1)N | C6H13N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 8-({(2S)-2-[(Cyclohexylamino)methyl]pyrrolidin-1-yl}sulfonyl)-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.036 g, 46% | C1(CCCCC1)NC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC(CN3)(C)C)=O | C24H34N4O3S
